US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (1.97 g) and 4-methoxybutyl methanesulfonate (754 mg) were dissolved in DMA (50 ml), cesium carbonate (1.93 g) was added and the mixture was stirred at 60° C. for 15 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (0:10-5:5) was concentrated under reduced pressure to give the object product (2.19 g).

reactant | tert-Butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.97 g | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CCC | C26H37N5O5
reactant | 4-methoxybutyl methanesulfonate | 754 mg | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 1.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(propyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 2.19 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CCC | C31H47N5O6
